US06812227B2
2-{{[4-(2-Butynyloxy)phenyl]sulfonyl}[3-(4-methyl-1-piperazinyl)propyl]amino}-N-hydroxy-3-methylbutanamide hydrochloride
According to the procedure of Example 118, using 1-methylpiperazine instead of diethylamine, 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(3-chloropropyl)-amino]-3-methylbutanoate was converted into 2-{{[4-(2butynyloxy)phenyl]sulfonyl}-[3-(4-methyl-1-piperazinyl)propyl]amino}-N-hydroxy-3-methylbutanamide, which was converted into the corresponding hydrochloride salt with ethereal HCl solution to provide an off-white solid. Electrospray Mass Spec 481.4 (M+H)+

reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 2-[{[4-(2-butynyloxy)phenyl]sulfonyl}(3-chloropropyl)-amino]-3-methylbutanoate | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)[O-])C(C)C)CCCCl
reactant | 2-{{[4-(2butynyloxy)phenyl]sulfonyl}-[3-(4-methyl-1-piperazinyl)propyl]amino}-N-hydroxy-3-methylbutanamide | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)NO)C(C)C)CCCN1CCN(CC1)C | C23H36N4O5S
reactant | HCl | Cl | ClH
product | 2-{{[4-(2-Butynyloxy)phenyl]sulfonyl}[3-(4-methyl-1-piperazinyl)propyl]amino}-N-hydroxy-3-methylbutanamide hydrochloride | Cl.C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N(C(C(=O)NO)C(C)C)CCCN1CCN(CC1)C | InChI=1S/C23H36N4O5S.ClH/c1-5-6-18-32-20-8-10-21(11-9-20)33(30,31)27(22(19(2)3)23(28)24-29)13-7-12-26-16-14-25(4)15-17-26;/h8-11,19,22,29H,7,12-18H2,1-4H3,(H,24,28);1H
